US07081454B2
2-(3-Chloro-phenyl)-2-triethylsilanyloxy-ethylamine:
Raney nickel (1 g) was washed with distilled water five times and methanol three times. [1-(3-Chloro-phenyl)-2-nitro-ethoxy]-triethyl-silane (10 g, 0.032 mol) and Raney nickel in methanol (100 mL) was hydrogenated (35 psi) at room temperature for 14 h. The reaction mixture was filtered through a pad of celite and rinsed with methanol. Concentration of the filtrate to dryness gave the title compound (5.6 g, 62%) as a colorless oil which was used for the next step without purification. 1H NMR (300 MHz, CDCl3) δ 7.32 (1H, s), 7.18–7.26 (3H, m), 4.70 (1H, t, J=5.8 Hz), 2.86 (2H, m), 0.89 (9H, t, J=7.9 Hz), 0.56 (6H, q, J=7.8 Hz). LRMS (M+H)+ m/z 286.

reactant | [1-(3-Chloro-phenyl)-2-nitro-ethoxy]-triethyl-silane | 0.032 mol, 10 g | ClC=1C=C(C=CC1)C(C[N+](=O)[O-])O[Si](CC)(CC)CC | C14H22ClNO3Si
catalyst | Raney nickel | [Ni] | Ni
solvent | methanol | 100 mL | CO | CH4O
product | 2-(3-Chloro-phenyl)-2-triethylsilanyloxy-ethylamine | 5.6 g, 62% | ClC=1C=C(C=CC1)C(CN)O[Si](CC)(CC)CC | C14H24ClNOSi
